US06080870
Step A: 4-(2-trifluoromethylphenyl)benzoic acid
To a solution of 4-carboxybenzeneboronic acid (1.218 g, 7.340 mmol) and Na2CO3 (2.40 g, 22.6 mmol) in water (75 mL) was added p-dioxane (75 mL). This mixture was treated sequentially with 2-iodobenzotrifluoride (1.05 mL, 7.48 mmol) and palladium (II) acetate (151 mg, 0.673 mmol) and allowed to stir at ambient temperature for 16 hours. The solvent was evaporated in vacuo. To the residue was added EtOAc (400 mL) and water (300 mL). The aqueous layer was acidified to pH 1 with 1.0 N aq. HCl and the layers separated. The aqueous layer was extracted with EtOAc (2×200 mL). The organic extracts were combined, washed with brine (200 mL), 5% aq. Na2S2O3 (200 mL), saturated NaCl (200 mL), dried (Na2SO4), and the solvent evaporated in vacuo to afford the title compound as a yellow solid. 1H NMR (CDCl3, 400 MHz) d 8.14(2H, d, J=8.1 Hz), ), 7.77(1H, d, J=7.9 Hz), 7.60(1H, t, J=7.5 Hz), 7.52(1H, t, J=7.3 Hz), 7.44(2H, d, J=8.1 Hz) and 7.33(1H, d, J=7.5 Hz) ppm.

reactant | 4-carboxybenzeneboronic acid | 7.340 mmol, 1.218 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | Na2CO3 | 22.6 mmol, 2.40 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | p-dioxane | 75 mL | O1CCOCC1 | C4H8O2
reactant | 2-iodobenzotrifluoride | 7.48 mmol, 1.05 mL | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
solvent | water | 75 mL | O | H2O
catalyst | palladium (II) acetate | 0.673 mmol, 151 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2-trifluoromethylphenyl)benzoic acid | FC(C1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1)(F)F | C14H9F3O2
